US05127936
A mixture of 14 g (141.4 mmol) of 3,5-diamino-1,2,4-triazole and 24.0 g (148.1 mmol) benzoylacetone was heated in 200 ml of glacial acetic acid at reflux for 2 hours. A solution soon formed after heating. The solvent was removed in vacuo and the residue dissolved in 400 ml of methylene chloride which was then washed with water (2X), brine and dried over magnesium sulfate. The solution was concentrated in vacuo (not to complete dryness) and ethyl acetate added to the residue. The precipitated solid was filtered and washed with ethyl acetate to give 16.0 g of reasonably pure intermediate 5-methyl-7-phenyl-1,2,4-triazolo[1,5-a]pyrimidin-2-amine which was able to be taken on directly to the next step without further purification m.p. 246°-250° .

reactant | 3,5-diamino-1,2,4-triazole | 141.4 mmol, 14 g | NC1=NNC(=N1)N | C2H5N5
reactant | benzoylacetone | 148.1 mmol, 24.0 g | C(C1=CC=CC=C1)(=O)CC(C)=O | C10H10O2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 5-methyl-7-phenyl-1,2,4-triazolo[1,5-a]pyrimidin-2-amine | CC1=NC=2N(C(=C1)C1=CC=CC=C1)N=C(N2)N | C12H11N5
